US04894458
A mixture of 1-ethyl-6,7-difluoro-1,4-dihydro-8-methyl-4-oxo-3-quinolinecarboxylic acid (420 mg), 3-t-butoxycarbonylaminopyrrolidine (350 mg), DBU (260 mg) and anhydrous acetonitrile (10 ml) was refluxed for 35 hours. After the reacting mixture was concentrated under reduced pressure, the resulting residue was dissolved in chloroform (40 ml), washed with 10% aqueous citric acid solution and saturated aqueous sodium chloride solution successively, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography eluting chloroform-methanol-concentrated aqueous ammonia (20:6:1) and recrystallized from methanol to give 7-(3-t-butoxycarbonylamino-1-pyrrolidinyl)-1-ethyl-6-fluoro-1,4-dihydro-8-methyl-4-oxo-3-quinolinecarboxylic acid (360 mg) as white prisms, mp 184.5°-187.5° C. (decompd.).

reactant | 1-ethyl-6,7-difluoro-1,4-dihydro-8-methyl-4-oxo-3-quinolinecarboxylic acid | 420 mg | C(C)N1C=C(C(C2=CC(=C(C(=C12)C)F)F)=O)C(=O)O | C13H11F2NO3
reactant | 3-t-butoxycarbonylaminopyrrolidine | 350 mg | C(C)(C)(C)OC(=O)NC1CNCC1 | C9H18N2O2
reactant | DBU | 260 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 7-(3-t-butoxycarbonylamino-1-pyrrolidinyl)-1-ethyl-6-fluoro-1,4-dihydro-8-methyl-4-oxo-3-quinolinecarboxylic acid | 360 mg | C(C)(C)(C)OC(=O)NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1C)CC)C(=O)O)=O)F | C22H28FN3O5
